US04774337
Preparation of 2-Fluoro-3-(propylthio)pyridine
To a stirred solution of 59 ml (0.113 mol) of 1.9 molar lithium diisopropyl amide (in hexanes) in 150 mls dry tetrahydrofuran cooled to -70° under nitrogen was added dropwise a solution of 10.0 g of 2-fluoropyridine (0.103 mol) in 30 mls dry tetrahydrofuran such that the temperature was maintained below -65°. The solution was stirred at -70° for 4 hours and a solution 17 g of n-propyldisulfide (0.113 mol ) in 45 mls dry tetrahydrofuran was added dropwise while maintaining the temperature below -65°. After stirring another hour at -70°, the solution was poured into water and extracted with ether. The combined organic phases were washed with brine, dried over magnesium sulfate, and evaporated to afford 14.5 g (82%) of a red oil: NMR (CDCl3, 200 MHz), 1.0 (3H, m), 1.7 (2H, m), 2.9 (2H, m), 7.1 (1H, m), 7.7 (1H, m), 8.0 (1H, m); IR (neat) 1585, 1560, 1410, 1245 cm-1.

reactant | lithium diisopropyl amide | 0.113 mol, 1.9 molar, 59 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-fluoropyridine | 0.103 mol, 10.0 g | FC1=NC=CC=C1 | C5H4FN
reactant | n-propyldisulfide | 0.113 mol, 17 g | C(CC)SSCCC | C6H14S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 mls | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mls | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 mls | O1CCCC1 | C4H8O
product | 2-Fluoro-3-(propylthio)pyridine | 14.5 g, 82% | FC1=NC=CC=C1SCCC | C8H10FNS
